US07410966B2
6-Bromo-2-[4-(3-morpholin-4-ylpropoxy)phenyl]-3H-imidazo[4,5-b]pyridine
A solution of 6-bromo-2-[4-(3-chloropropoxy)phenyl]-3H-imidazo[4,5-b]pyridine (50 mg, 0.14 mmol), lithium iodide (20 mg, 0.15 mmol) and morpholine (0.1 ml, 1.15 mmol) in DMF (5 ml) was heated at 100° C. for 6 h. Column chromatography on silica using methylene chloride/methanol/ammonia as eluent afforded the title compound in almost quantitative yield.

reactant | 6-bromo-2-[4-(3-chloropropoxy)phenyl]-3H-imidazo[4,5-b]pyridine | 0.14 mmol, 50 mg | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCCCCl | C15H13BrClN3O
reactant | lithium iodide | 0.15 mmol, 20 mg | [I-].[Li+]
reactant | morpholine | 1.15 mmol, 0.1 ml | N1CCOCC1 | C4H9NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride methanol ammonia | C(Cl)Cl.CO.N
product | 6-Bromo-2-[4-(3-morpholin-4-ylpropoxy)phenyl]-3H-imidazo[4,5-b]pyridine | quantitative yield | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCCCN2CCOCC2 | C19H21BrN4O2
